US05652363
2,3-Dihydro-1H-pyrido[3,4-b][1,4]oxazine
To a stirred solution of 1H-pyrido-[3,4-b][1,4]oxazine-2-(3H)one (3 g, 21 mmol) in tetrahydrofuran (150 ml) was added rapidly a borane/dimethyl sulfide solution (52 ml of a 2M solution in THF, 5 eq) at 25° C. over 15 minutes. The reaction mixture was stirred at 25° C. for 2 hours and quenched with 5 ml of water. The solvent was removed in vacuo using a rotary evaporator and the residue treated with aqueous 1M HCl with stirring. The water was removed and the residue chromatographed on silica gel using CH2Cl2 /MeOH/NH4OH (90/10/1) to give 2 g (70%) of titled product. m.p. 167°-169° C. The structural assignment is supported by the proton NMR spectrum.

reactant | 1H-pyrido-[3,4-b][1,4]oxazine-2-(3H)one | 21 mmol, 3 g | N1C2=C(OCC1=O)C=NC=C2 | C7H6N2O2
reactant | borane dimethyl sulfide | B.CSC
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2,3-Dihydro-1H-pyrido[3,4-b][1,4]oxazine | 2 g, 70% | N1C2=C(OCC1)C=NC=C2 | C7H8N2O
